US05227383
Dimethylformamide dimethyl acetal (1.50 mL, 11.34 mmol, Aldrich) was added to a solution of cleistopholine, (1.95 g, 8.73 mmol) in dimethylformamide (5 mL). The mixture was then heated for 30 min by submerging the reaction vessel into an oil bath preheated to 120° C. At this point, ammonium chloride (4.5 g) and glacial acetic acid (15 mL) were added to the reaction and the heating (120° C.) continued for an additional 30 min. After allowing to cool, the reaction was poured onto water (200 mL) and partitioned with methylene chloride (5×100mL). The combined organic phases were washed with saturated sodium bicarbonate solution (3×100 mL), water (3×100 mL), dried over potassium carbonate, and concentrated to dryness. The residual dark brown solids were chromatographed on silica gel (4×70 cm column, Merck 230-400 mesh) while eluting with ethyl acetate. Concentration of the appropriate column fractions provided pure sampangine (1.60 g, 79%), mp 220-222 (lit. mp 216°-218° C.). IR 1670, 1615, 1590, 1400, 1380, 1320, 1275, 1225, 760, 725 cm-1 ; 1H and 13C NMR.

reactant | Dimethylformamide dimethyl acetal | 11.34 mmol, 1.50 mL | COC(N(C)C)OC | C5H13NO2
reactant | cleistopholine | 8.73 mmol, 1.95 g | CC=1C=CN=C2C1C(=O)C=3C=CC=CC3C2=O | C14H9NO2
reactant | ammonium chloride | 4.5 g | [Cl-].[NH4+]
reactant | acetic acid | 15 mL | C(C)(=O)O | C2H4O2
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | sampangine | 1.60 g, 79% | C=1C=CC2=C(C1)C3=C4C(=CC=N3)C=CN=C4C2=O | C15H8N2O
